US07902379B2
A) 3-(2-Ethoxy-phenyl)-3-hydroxy-5-methoxy-1,3-dihydro-indol-2-one
40 g (1.65 mol) of magnesium chips and 5% of the total amount of the 2-bromo-1-ethoxy benzene were added to 100 ml diethyl ether and after adding a few crystals iodine the mixture was carefully heated to initiate the reaction. To the refluxing mixture the remaining amount of 203 ml (1.65 mol) 2-bromo-1-ethoxy benzene, dissolved in 450 ml diethyl ether, was added slowly to maintain the reaction. Then 75 g (0.41 mol) of 5-methoxyisatine, suspended in 750 ml THF, were added to the cooled reaction mixture. After stirring the reaction mixture for 30 minutes at ambient temperature, the mixture was poured into an ice/aqueous NH4Cl mixture. The aqueous phase was extracted with ethyl acetate several times and the combined organic phase was washed with H2O, dried over magnesium sulfate and the solvent was removed in vacuo.

reactant | magnesium | 1.65 mol, 40 g | [Mg] | Mg
reactant | 2-bromo-1-ethoxy benzene | BrC1=C(C=CC=C1)OCC | C8H9BrO
reactant | iodine | II | I2
reactant | 2-bromo-1-ethoxy benzene | 1.65 mol, 203 ml | BrC1=C(C=CC=C1)OCC | C8H9BrO
reactant | 5-methoxyisatine | 0.41 mol, 75 g | COC=1C=C2C(C(NC2=CC1)=O)=O | C9H7NO3
solvent | diethyl ether | 450 ml | C(C)OCC | C4H10O
solvent | THF | 750 ml | C1CCOC1 | C4H8O
solvent | diethyl ether | 100 ml | C(C)OCC | C4H10O
product | 3-(2-Ethoxy-phenyl)-3-hydroxy-5-methoxy-1,3-dihydro-indol-2-one | C(C)OC1=C(C=CC=C1)C1(C(NC2=CC=C(C=C12)OC)=O)O | C17H17NO4
